US07405228B2
(S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-trifluoroacetamide
The title compound was prepared as per Example-29 by using (S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine and trifluoroacetic acid in 51% yield.

reactant | (S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | C(#N)C=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F)C | C18H21FN4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-trifluoroacetamide | 51% yield | C(#N)C=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C(F)(F)F)=O)=O)F)C | C20H20F4N4O3
